US04902835
To a solution of 1.0 g (4.5 mmol) 4-bromo-1-methoxy-1,1,2-trifluoro-2-butene in 15.0 mL tetrahydrofuran at -60° C. was added a solution of phenylmagnesium bromide (3M, 1.6 mL, 4.8 mmol) in diethyl ether and the mixture was stirred for 1 hr. at -60° C. then stirred for 12 hours at 20° C. The workup and acidic hydrolysis was done as mentioned in Example 3 to give 0.34 g (42%) of methyl (Z)-2-fluoro-4-phenyl-2-butenoate. 1H-NMR (300 MHz, CDCl3): δ 3.58(2H, dd, J=2, 9Hz), 3.81(3H, s), 6.29(1H, dt, J=9, 31 Hz), 7.18-7.34(5H, m). Mass spectrum: m/e=194 (M+). 19F-NMR (CDCl3): φ 131.3(d, J=31.1 Hz).

reactant | 4-bromo-1-methoxy-1,1,2-trifluoro-2-butene | 4.5 mmol, 1.0 g | BrCC=C(C(F)(F)OC)F | C5H6BrF3O
reactant | phenylmagnesium bromide | 4.8 mmol, 3M, 1.6 mL | C1(=CC=CC=C1)[Mg]Br
reactant | tetrahydrofuran | 15.0 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | methyl (Z)-2-fluoro-4-phenyl-2-butenoate | 0.34 g, 42% | F\C(\C(=O)OC)=C/CC1=CC=CC=C1 | C11H11FO2
